US05395815
Preparation Example 12 : Preparation of N-(4-hydroxyphenyl)-N'-n-octadecylurea (Example 44)
Under a nitrogen atmosphere, p-aminophenol (109 g) was suspended in methyl ethyl ketone (2000 ml) and the suspension was heated to 70° C. n-Octadecyl isocyanate (296 g) was added dropwise to the suspension with vigorous stirring over a period of about 30 minutes. In this case, since heat of reaction was generated, n-octadecyl isocyanate was added dropwise at a rate at which the temperature of the reaction mixture was kept at 70°-75° C. After completion of the addition, the temperature of the reaction mixture was raised to 75°-80° C. and the reaction was allowed to proceed for further 30 minutes. After completion of the reaction, the reaction mixture was tooled to room temperature to precipitate a white solid. The solvent was removed by filtration and the residue was dried under reduced pressure to obtain a nearly pure desired product (385 g). Yield 95%; m.p. 144° C.

reactant | p-aminophenol | 109 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | n-Octadecyl isocyanate | 296 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | methyl ethyl ketone | 2000 ml | C(C)C(=O)C | C4H8O
product | N-(4-hydroxyphenyl)-N'-n-octadecylurea | 385 g, Yield 95% | OC1=CC=C(C=C1)NC(=O)NCCCCCCCCCCCCCCCCCC | C25H44N2O2
